US06723724B2
Preparation of 5-{3-[4-(Diphenylmethyl)piperazinyl]propyl}-3-(4-chlorophenyl)isoxazole
About 2 min after dissolving 3-[3-(4-chlorophenyl)isoxazol-5-yl]propanal (10 mg, 0.05 mmol) and 1-(diphenylmethyl)piperazine (11 mg, 0.04 mmol) in 2 mL of dry methylene chloride, were added NaBH(OAc)3 (27 mg, 0.13 mmol) and molecular sieves (5 beads). The reaction mixture was reacted for 2.75 hr and followed the same processes as in Example 1 to obtain 18 mg (90.8%) of the target compound.

reactant | 3-[3-(4-chlorophenyl)isoxazol-5-yl]propanal | 0.05 mmol, 10 mg | ClC1=CC=C(C=C1)C1=NOC(=C1)CCC=O | C12H10ClNO2
reactant | 1-(diphenylmethyl)piperazine | 0.04 mmol, 11 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | NaBH(OAc)3 | 0.13 mmol, 27 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-{3-[4-(Diphenylmethyl)piperazinyl]propyl}-3-(4-chlorophenyl)isoxazole | 18 mg, 90.8% | C1(=CC=CC=C1)C(N1CCN(CC1)CCCC1=CC(=NO1)C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C29H30ClN3O
